US08080568B1
Preparation of 1-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-2-(6-methylpyridin-2-yl)ethane-1,2-dione (a compound of the formula (V) wherein Ra═CH3)
To a stirred suspension of 2-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-1-(6-methylpyridin-2-yl)ethanone (6.20 g, 24.57 mmol) in DMSO (48 mL) was added dropwise HBr (48 wt. % in water, 5.96 g, 12.4 mL) at 0° C., and the mixture was heated at 60-70° C. After 2 h, the reaction mixture was cooled to 0° C., poured onto ice water (20 mL), and basified to pH 10 with solid K2CO3. The mixture was extracted with CHCl3 (2×250 mL), and the organic phase was washed with water (2×100 mL), dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of MeOH and CH2Cl2 as eluent to give the titled compound (6.02 g, 92%) as a light yellow solid. 1H NMR (400 MHz, CDCl3): δ 9.11 (dd, 1H, J=1.6, 1.2 Hz), 8.47 (s, 1H), 8.14 (dd, 1H, J=9.2, 1.6 Hz), 8.04 (br d, 1H, J=7.6 Hz), 7.88 (dd, 1H, J=9.2, 1.2 Hz), 7.84 (t, 1H, J=7.8 Hz), 7.42 (br d, 1H, J=8.0 Hz), 2.49 (s, 3H).

reactant | 2-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-1-(6-methylpyridin-2-yl)ethanone | 24.57 mmol, 6.20 g | N=1C=NN2C1C=CC(=C2)CC(=O)C2=NC(=CC=C2)C | C14H12N4O
reactant | HBr | 12.4 mL, 5.96 g | Br | BrH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 48 mL | CS(=O)C | C2H6OS
product | 1-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-2-(6-methylpyridin-2-yl)ethane-1,2-dione | 6.02 g, 92% | N=1C=NN2C1C=CC(=C2)C(C(=O)C2=NC(=CC=C2)C)=O | C14H10N4O2
